US06727264B1
TERT-BUTYL 4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-3,6-DIHYDRO-1(2H)-PYRIDINECARBOXYLATE:
Prepared by Procedure W and Scheme AF using N-(6-bromo-2-pyridinyl)-2-methylpropanamide and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate: ESMS m/e: 245.8 (M - 100)+.

reactant | N-(6-bromo-2-pyridinyl)-2-methylpropanamide | BrC1=CC=CC(=N1)NC(C(C)C)=O | C9H11BrN2O
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydro-1(2H)-pyridinecarboxylate | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
product | TERT-BUTYL 4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-3,6-DIHYDRO-1(2H)-PYRIDINECARBOXYLATE | C(C(C)C)(=O)NC1=CC=CC(=N1)C=1CCN(CC1)C(=O)OC(C)(C)C | C19H27N3O3
